US05622976
The mixture of 3-[1-hydroxy-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole (0.28 g), N,N-dicyclohexylcarbodiimide (0.66 g) and o-phosphoric acid (0.31 g) in dimethyl sulfoxide (5 ml) was stirred overnight at ambient temperature and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica eluting with 3% methanol in chloroform to give 3-[1-oxo-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole as an oil (0.21 g). The oil was dissolved in a solution of fumaric acid (48 mg) in ethanol and the crystals were filtered off to give 3-[1-oxo-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole fumarate (0.18 g).

reactant | 3-[1-hydroxy-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole | 0.28 g | OC(CCCC1CCN(CC1)CC1=CC=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H28N4O4
reactant | o-phosphoric acid | 0.31 g | OP(=O)(O)O | H3O4P
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 3-[1-oxo-4-(1-benzylpiperidin-4-yl)butyl]-5-(4-nitrophenyl)-1,2,4-oxadiazole | 0.21 g | O=C(CCCC1CCN(CC1)CC1=CC=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H26N4O4
